US04367282
54.5 g (0.17 mol) of 1-(2,4,6-trichlorophenyl)-3-acetylamino-5-oxo-2-pyrazoline was dissolved in 300 ml of acetic acid, to which there was then gradually added dropwise 27.2 g (0.17 mol) of bromine. After stirring for 1 hour, the reaction mixture was poured into 900 ml of water and the crystals thus-separated were collected by filtration to obtain 57 g (84% yield) of 1-(2,4,6-trichlorophenyl)-3-acetylamino-4-bromo-5-oxo-2-pyrazoline.

reactant | 1-(2,4,6-trichlorophenyl)-3-acetylamino-5-oxo-2-pyrazoline | 0.17 mol, 54.5 g | ClC1=C(C(=CC(=C1)Cl)Cl)N1N=C(CC1=O)NC(C)=O | C11H8Cl3N3O2
reactant | bromine | 0.17 mol, 27.2 g | BrBr | Br2
reactant | water | 900 ml | O | H2O
solvent | acetic acid | 300 ml | C(C)(=O)O | C2H4O2
product | 1-(2,4,6-trichlorophenyl)-3-acetylamino-4-bromo-5-oxo-2-pyrazoline | 57 g, 84% yield | ClC1=C(C(=CC(=C1)Cl)Cl)N1N=C(C(C1=O)Br)NC(C)=O | C11H7BrCl3N3O2
